US06710054B2
2-{4-[6-CHLORO-2-ETHYL-5-(TRIFLUOROMETHYL)-1H-BENZIMIDAZOL-1-YL]PHENYL}ETHYL-(1-METHYL-1H-IMIDAZOL-4-YL)SULFONYLCARBAMATE
The title compound was prepared according to the procedure described in step 2 of Example 243 from 2-{4-[6-chloro-2-ethyl-5-(trifluoromethyl)-1H-benzimidazol-1-yl]phenyl}ethyl phenyl carbonate and 1-methyl-1H-imidazol-4-ylsulfonamide.

reactant | 2-{4-[6-chloro-2-ethyl-5-(trifluoromethyl)-1H-benzimidazol-1-yl]phenyl}ethyl phenyl carbonate | C(OCCC1=CC=C(C=C1)N1C(=NC2=C1C=C(C(=C2)C(F)(F)F)Cl)CC)(OC2=CC=CC=C2)=O | C25H20ClF3N2O3
reactant | 1-methyl-1H-imidazol-4-ylsulfonamide | CN1C=NC(=C1)S(=O)(=O)N | C4H7N3O2S
product | 2-{4-[6-CHLORO-2-ETHYL-5-(TRIFLUOROMETHYL)-1H-BENZIMIDAZOL-1-YL]PHENYL}ETHYL-(1-METHYL-1H-IMIDAZOL-4-YL)SULFONYLCARBAMATE | ClC=1C(=CC2=C(N(C(=N2)CC)C2=CC=C(C=C2)CCOC(NS(=O)(=O)C=2N=CN(C2)C)=O)C1)C(F)(F)F | C23H21ClF3N5O4S
